US05955635
U.S. Pat. No. 4,061,779 discloses the base-promoted condensation between 6-methoxy-naphthaldehyde I and acetone to give 4-(6-methoxy-2-naphthyl)-3-buten-2-one in a 41% yield (example 20). 4-(6-Methoxy-2-naphthyl)-3-buten-2-one is purified by chromatography on silica gel column as it is contaminated by different impurities due to the binding of other acetone molecules to the keto functionality. Nabumetone V is obtained by Pd/C catalyzed hydrogenation (example 21). Nabumetone V in the amorphous form, starting from 6-methoxy-naphthaldehyde, is obtained in a 29 mol % yield.

reactant | 6-methoxy-naphthaldehyde | COC=1C=C2C=CC=C(C2=CC1)C=O | C12H10O2
solvent | acetone | CC(=O)C | C3H6O
product | 4-(6-methoxy-2-naphthyl)-3-buten-2-one | 41% yield | COC=1C=C2C=CC(=CC2=CC1)C=CC(C)=O | C15H14O2
